US09126993B2
biphenyl-2-yl 1,4-diazabicyclo[3.2.2]nonane-4-carboxylate
Biphenyl-2-yl carbonochloridate (83.0 mg, 0.358 mmol) was treated with 1,4-diazabicyclo[3.2.2] nonane (113 mg, 0.896 mmol) using the same procedure reported in example 46 to afford the title compound as an off-white solid (17 mg, 15%). Purity: >99% UPLCMS (210 nm); retention time 0.75 min; (M+1) 323.

reactant | Biphenyl-2-yl carbonochloridate | 0.358 mmol, 83.0 mg | C(OC1=C(C=CC=C1)C1=CC=CC=C1)(=O)Cl | C13H9ClO2
reactant | 1,4-diazabicyclo[3.2.2] nonane | 0.896 mmol, 113 mg | N12CCNC(CC1)CC2 | C7H14N2
product | biphenyl-2-yl 1,4-diazabicyclo[3.2.2]nonane-4-carboxylate | 17 mg, 15% | N12CCN(C(CC1)CC2)C(=O)OC2=C(C=CC=C2)C2=CC=CC=C2 | C20H22N2O2
